US07855206B2
N,N-diisopropylethylamine (184 mL) was added to a solution of 2-nitro-1-(2,5-difluorophenyl)ethanone (92.7 g, 461 mmol) in N,N-dimethylformamide (1000 mL) and 3-iodo-2-(iodomethyl)prop-1-ene (156 g, 507 mmol). The mixture was heated at 60° C. for 2 h, evaporated and purified by chromatography (silica gel, gradient 0-30% dichloromethane in hexane) to yield 3-methylene-5-nitro-6-(2,5-difluorophenyl)-3,4-dihydro-2H-pyran.

reactant | N,N-diisopropylethylamine | 184 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-nitro-1-(2,5-difluorophenyl)ethanone | 461 mmol, 92.7 g | [N+](=O)([O-])CC(=O)C1=C(C=CC(=C1)F)F | C8H5F2NO3
reactant | 3-iodo-2-(iodomethyl)prop-1-ene | 507 mmol, 156 g | ICC(=C)CI | C4H6I2
solvent | N,N-dimethylformamide | 1000 mL | CN(C=O)C | C3H7NO
product | 3-methylene-5-nitro-6-(2,5-difluorophenyl)-3,4-dihydro-2H-pyran | C=C1COC(=C(C1)[N+](=O)[O-])C1=C(C=CC(=C1)F)F | C12H9F2NO3
